Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
latex
 
Attending: ___.
 
Chief Complaint:
Endometrial cancer
 
Major Surgical or Invasive Procedure:
 Robotic-assisted total laparoscopic hysterectomy,
bilateral salpingo-oophorectomy, and bilateral pelvic sentinel
lymph node biopsies.

 
History of Present Illness:
Ms. ___ is a lovely ___ yo G4P4 who presents as a referral for
endometrial cancer.

She noticed post menopausal bleeding in ___.  She had 
no
pelvic pain or vaginal discharge.  

Pelvic ultrasound done on ___ that showed:
The uterus measures 10.9 x 4.1 x 5.1 cm in greatest sagittal, AP
and transverse ___. No myometrial abnormality is seen. 
The
endometrial stripe measures 1.2 cm in greatest double thickness,
with no abnormal blood flow. Neither ovary is visualized on
either the transabdominal or transvaginal
examination. No pelvic free fluid.

Endometrial biopsy on ___ showed scant fragments of highly
atypical endometrium with back-to-back glands and cytologic
atypia, highly suspicious for endometrial adenocarcinoma,
endometrioid type, FIGO grade 1.

 
Past Medical History:
PMH: 
- breast cancer, s/p lumpectomy and radiation, followed by 6
months of tamoxifen use (___)
- HTN
- arthritis
- obesity, BMI 38.8
-atrial fibrillation
-hypertrophic obstructive cardiomyopathy
 
Social History:
___
Family History:
FamHx:
- sister with unknown malignancy but received radiation/chemo
- denies known history of GYN or colon cancer
 
Physical Exam:
Physical Exam:
 General: NAD, comfortable
 CV: RRR
 Lungs: CTAB
 Abdomen: soft, non-distended, appropriately tender to palpation
without rebound or guarding, incisions clean/dry/intact
 GU: pad with minimal spotting, 
 Extremities: no edema, no TTP, pneumoboots in place bilaterally
 
Pertinent Results:
___ 06:50AM BLOOD WBC-5.8 RBC-3.92 Hgb-11.7 Hct-36.1 MCV-92 
MCH-29.8 MCHC-32.4 RDW-15.1 RDWSD-51.1* Plt ___
___ 03:45AM BLOOD WBC-10.0 RBC-4.13 Hgb-12.3 Hct-38.2 
MCV-93 MCH-29.8 MCHC-32.2 RDW-14.8 RDWSD-50.6* Plt ___
___ 06:40PM BLOOD WBC-7.0 RBC-4.28 Hgb-12.7 Hct-39.8 MCV-93 
MCH-29.7 MCHC-31.9* RDW-14.9 RDWSD-50.9* Plt ___
___ 03:45AM BLOOD Neuts-71.4* ___ Monos-7.5 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-7.12* AbsLymp-2.06 
AbsMono-0.75 AbsEos-0.01* AbsBaso-0.02
___ 06:40PM BLOOD Neuts-68.8 ___ Monos-5.3 Eos-0.3* 
Baso-0.4 Im ___ AbsNeut-4.81 AbsLymp-1.72 AbsMono-0.37 
AbsEos-0.02* AbsBaso-0.03
___ 06:50AM BLOOD Plt ___
___ 06:40PM BLOOD Plt ___
___ 06:50AM BLOOD Glucose-89 UreaN-13 Creat-0.9 Na-145 
K-4.6 Cl-109* HCO3-24 AnGap-12
___ 03:45AM BLOOD Glucose-102* UreaN-16 Creat-1.0 Na-136 
K-4.8 Cl-103 HCO3-21* AnGap-12
___ 06:40PM BLOOD Glucose-162* UreaN-17 Creat-1.1 Na-140 
K-3.8 Cl-104 HCO3-25 AnGap-11
___ 03:45AM BLOOD proBNP-862*
___ 06:50AM BLOOD Calcium-8.5 Phos-3.0 Mg-2.3
___ 03:45AM BLOOD Calcium-8.5 Phos-3.4 Mg-2.5
___ 06:40PM BLOOD Calcium-8.6 Phos-4.0 Mg-3.1*
___ 06:40PM BLOOD %HbA1c-5.9 eAG-123
___ 03:45AM BLOOD T4-7.7
 
Brief Hospital Course:
Ms. ___ was admitted to the gynecologic oncology service after 
undergoing a robotic-assisted Total Laparaoscopic Hysterectomy, 
Bilateral Salpingo Oopherectomy, bilateral sentinel lymph node 
biopsies for grade I endometrial cancer. Please see the 
operative report for full details.  

Her post-operative course is detailed as follows. Immediately 
postoperatively, patient was doing well from a post-operative 
standpoint with the exception of
atrial fibrillation with slow ventricular rate. In the PACU she 
was noted to have HRs as low as the ___ and even received 
atropine and glycopyrrolate.  She denied cardiopulmonary 
symptoms and her blood pressures were normal at that time. Per 
discussion with a medicine consult, given that the patient was 
hemodynamically stable she was transferred from the PACU to the 
post-operative floor with telemetry for ongoing management. Upon 
the medicine consult and deep review in the patients records it 
was found that the patient carries a diagnosis of hypertrophic 
cardiomyopathy, but did not apparently carry a diagnosis of 
afib. 

Upon reaching the floor on telemetry, a cardiology consult was 
called. She underwent an echocardiogram which showed "-EF 75%, 
mild LVH, no resting LVOT gradient, no ___, mild MAC, no 
significant valvulopathy." At this time the patient had no more 
bradycardia episodes or arrhythmic episodes. The cardiology team 
made recommendations to reduce Ms. ___ verapamil to 120 PO 
BID, and recommended that she follow up with her PCP in the next 
___ weeks to get a Ziopatch to monitor for the arrhythmia 
recurrence. Only with confirming the diagnosis would she then be 
recommended to start therapeutic anticoagulation. 

Immediately after her operation, her pain was controlled with IV 
pain medications. Her diet was advanced without difficulty and 
she was transitioned to oral acetaminophen, oxycodone, and 
ibuprofen. On post-operative day #1, her urine output was 
adequate so her Foley catheter was removed and she voided 
spontaneously. 

By post-operative day 2, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient ___ scheduled with 
both gynecologic oncology and patient's daughter stated she 
would schedule PCP ___ in the next ___ weeks.

 
Medications on Admission:
- losartan 100 mg QD
- furosemide 40 mg QD
- verapamil 240 mg QD
- eye drops (prednisone, Lumigam, brimonidine, dorzolamide)
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild/Fever 
RX *acetaminophen 500 mg 1 tablet(s) by mouth every 6 hours Disp 
#*50 Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*50 Capsule Refills:*1 
3.  Ibuprofen 400 mg PO Q6H:PRN Pain - Mild 
RX *ibuprofen [IBU] 400 mg 1 tablet(s) by mouth every 6 hours 
Disp #*50 Tablet Refills:*1 
4.  Lumigan 0.03% Ophth  (*NF*) 1 DROP LEFT EYE DAILY  
5.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Severe 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 4 hours Disp #*30 
Tablet Refills:*0 
6.  Verapamil 120 mg PO Q12H 
RX *verapamil 120 mg 1 tablet(s) by mouth every 12 hours Disp 
#*50 Tablet Refills:*0 
7.  Brimonidine Tartrate 0.15% Ophth. 1 DROP LEFT EYE Q8H  
8.  Dorzolamide 2% Ophth. Soln. 1 DROP LEFT EYE TID  
9.  PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP BOTH EYES DAILY  


 
Discharge Disposition:
Home
 
Discharge Diagnosis:
endometrial cancer
hypertrophic obstructive cardiomyopathy
atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___

___ were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. ___ have recovered well 
after your operation, and the team feels that ___ are safe to be 
discharged home. Please follow these instructions: 

Heart Problem Instructions:
* Please see your primary care provider ___ ___ weeks
* The cardiology team saw ___ during your admission and 
recommend to take verapamil 120mg two times a day, and then to 
have a heart monitor placed called a Ziopatch to monitor for 
heart arrhythmias.
* It is recommended that ___ start to see a heart doctor called 
___ cardiologist as well as your usual doctor for your heart 
problem

Laparoscopic instructions:  
* Take your medications as prescribed. We recommend ___ take 
non-narcotics (i.e. Tylenol, ibuprofen) regularly for the first 
few days post-operatively, and use the narcotic as needed. As 
___ start to feel better and need less medication, ___ should 
decrease/stop the narcotic first.
* Take a stool softener to prevent constipation. ___ were 
prescribed Colace. If ___ continue to feel constipated and have 
not had a bowel movement within 48hrs of leaving the hospital 
___ can take a gentle laxative such as milk of magnesium.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (tylenol) in 24 
hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex) for 
___
* No heavy lifting of objects >10 lbs for 4 weeks.  
* ___ may eat a regular diet.
* It is safe to walk up stairs.  

Incision care:  
* ___ may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* ___ should remove your port site dressings ___ days after your 
surgery, if they have not already been removed in the hospital. 
Leave your steri-strips on.  If they are still on after ___ 
days from surgery, ___ may remove them.  

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if ___ are having loose stools 
or diarrhea.  

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  


 
Followup Instructions:
___